US05674886
EXAMPLE 58 1-Methyl-5-[[N-(4-nitrophenyl)-N-(4H-1,2,4-triazol-4-yl)amino]methyl]-1H-benzotriazole
Starting Compounds: 4-[(4-nitrophenyl)amino ]-4H-1,2,4-triazole and 5-chloromethyl-1-methyl-1H-benzotriazole

reactant | 4-[(4-nitrophenyl)amino ]-4H-1,2,4-triazole | [N+](=O)([O-])C1=CC=C(C=C1)NN1C=NN=C1 | C8H7N5O2
reactant | 5-chloromethyl-1-methyl-1H-benzotriazole | ClCC1=CC2=C(N(N=N2)C)C=C1 | C8H8ClN3
product | 1-Methyl-5-[[N-(4-nitrophenyl)-N-(4H-1,2,4-triazol-4-yl)amino]methyl]-1H-benzotriazole | CN1N=NC2=C1C=CC(=C2)CN(N2C=NN=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C16H14N8O2
